* C:\Users\Levovo20x\Documents\GitHub\EE464-HW3\simulations\Q8_type_III_B.asc
V1 5V 0 5V
V2 -5V 0 -5V
XU1 Vref N001 5V -5V Ve level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
Rc1 N002 N001 {Rc1}
Cc1 Ve N002 {Cc1} IC=0V
Cc2 Ve N001 {Cc2} 0V
V3 Vref 0 1.2
Rf2 N001 0 {Rf2}
Cf3 N005 N001 {Cf3}
Rf3 Vout N005 {Rf3}
Rf1 Vout N001 {Rf1}
V§Triangular N007 0 PULSE(0 1.8 0 4u 1p 1p 4.005u)
XU2 Ve N007 5V 0 Vgate level2 Avol=1Meg GBW=50Meg Slew=50Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
Vin N003 0 5V
S1 N003 N004 Vgate 0 MYSW
D1 0 N004 Didl
L1 N004 Vout 8µH IC=4A
R2 Vout N006 15m
C1 N006 0 8µF IC=3.3V
R3 Vout 0 1.65
R1 Vout N009 1.65
S2 0 N009 N008 0 MYSW
V4 N008 0 PULSE(12 0 5m 1p 1p 1s)
.model D D
.lib C:\Users\Levovo20x\AppData\Local\LTspice\lib\cmp\standard.dio
.param Cf3=2.2n Rf3=380 Rf1=76.96k Rf2=44k Rc1=9.139k Cc1=37n Cc2=140p
.model MYSW SW(Ron=10m Roff=1Meg Vt=.5 Vh=-.4)
.model Didl D(Ron=0.0001 Roff=100G Vfwd=0)
.tran 7.5m
.lib UniversalOpAmp2.lib
.backanno
.end
